US03988448
3.06 g of 4-(2-cyanoethyl)-7,7-diphenyl-hexahydro-1,4-oxazepine are added portionwise to the suspension prepared by combining the solution of 1.33 g of anhydrous aluminum chloride in 30 ml of diethyl ether with that of 0.38 g of lithium aluminum hydride in 30 ml of diethyl ether while stirring and cooling with an ice-bath. The mixture is allowed to warm up to room temperature, stirred for 51/2 hours and cooled again to 0°-5°. Thereupon 5 ml of water and 15 ml of 3N aqueous sulfuric acid are added and the organic layer extracted with 3N aqueous sulfuric acid. The aqueous layers are combined, made basic with concentrated aqueous sodium hydroxide and the mixture extracted four times with 15 ml of diethyl ether each. The extract is dried, filtered and evaporated. The residue is taken up in ethanol and the solution acidified with ethereal hydrogen chloride, to yield the 4-(3-aminopropyl)-7,7-diphenyl-hexahydro-1,4-oxazepine dihydrochloride melting at 190°-192° with decomposition.

reactant | 4-(2-cyanoethyl)-7,7-diphenyl-hexahydro-1,4-oxazepine | 3.06 g | C(#N)CCN1CCOC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | C20H22N2O
reactant | aluminum chloride | 1.33 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | lithium aluminum hydride | 0.38 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sulfuric acid | 3N, 15 ml | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | diethyl ether | 30 ml | C(C)OCC | C4H10O
solvent | water | 5 ml | O | H2O
product | 4-(3-aminopropyl)-7,7-diphenyl-hexahydro-1,4-oxazepine dihydrochloride | Cl.Cl.NCCCN1CCOC(CC1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C20H26N2O.2ClH/c21-13-7-14-22-15-12-20(23-17-16-22,18-8-3-1-4-9-18)19-10-5-2-6-11-19;;/h1-6,8-11H,7,12-17,21H2;2*1H
